US07683202B2
a) Preparation of 4-dodecyloxy-benzaldehyde
100 g of 4-hydroxy-benzaldehyde are reacted with 224.5 g of dodecyloxybromide along with 56.7 g of anhydrous KOH (85%) in 11 of 4-methyl-2-hydroxy-pentane. The mixture is then heated to reflux and maintained at reflux for 7 hours. The cooled reaction mixture is filtered to eliminate salts and distilled in a claisen equipment. 184 g (yield 77%) of a clear oil are collected at 178-181° C. and 0.5 mbar, which slowly crystallises on standing at room temperature.

reactant | 4-hydroxy-benzaldehyde | 100 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | dodecyloxybromide | 224.5 g | C(CCCCCCCCCCC)OBr | C12H25BrO
reactant | KOH | 56.7 g | [OH-].[K+]
reactant | 4-methyl-2-hydroxy-pentane | CC(CC(C)O)C | C6H14O
product | 4-dodecyloxy-benzaldehyde | 184 g, yield 77% | C(CCCCCCCCCCC)OC1=CC=C(C=O)C=C1 | C19H30O2
